US08426420B2
iii) 4-[(S)-6-Benzyloxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-hexanoyl]-piperazine-1-carboxylic acid cyclobutyl ester
To a solution of 480 mg 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid in 10 ml DMF were added 232 mg HOBt, 290 mg EDC and 0.48 ml DIPEA. After 5 minutes 470 mg (S)-4-(2-Amino-6-benzyloxy-hexanoyl)-piperazine-1-carboxylic acid cyclobutyl ester were added and the mixture stirred for 12 h. The reaction mixture was concentrated, diluted with ethyl acetate and washed with aqueous LiCl (4%), 0.1 M HCl and saturated aqueous NaHCO3. The crude product was obtained by evaporation of the solvent. An aliquot (80 mg) was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give the title compound. Yield: 40 mg MS (ES+): m/e=798.

reactant | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | 480 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
reactant | HOBt | 232 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.48 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-4-(2-Amino-6-benzyloxy-hexanoyl)-piperazine-1-carboxylic acid cyclobutyl ester | 470 mg | C1(CCC1)OC(=O)N1CCN(CC1)C([C@H](CCCCOCC1=CC=CC=C1)N)=O | C22H33N3O4
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EDC | 290 mg
product | 4-[(S)-6-Benzyloxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-hexanoyl]-piperazine-1-carboxylic acid cyclobutyl ester | C1(CCC1)OC(=O)N1CCN(CC1)C([C@H](CCCCOCC1=CC=CC=C1)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C43H55N7O8
